US08003604B2
To a solution of 7.12 g (48 mmol, 1.0 eq) of L-penicillamine in 100 mL of 1,4-dioxane and 25 mL of water at room temperature was added 9.60 mL (96 mmol, 2.0 eq) of 10N aqueous sodium hydroxide solution, followed by the dropwise addition of 12.00 mL (101 mmol, 2.1 eq) of 5-bromo-1-pentene over several minutes. The resulting mixture was stirred at room temperature for 68 hours. At this point 12.50 g (57 mmol, 1.2 eq) of di-tert-butyl dicarbonate was added, and the mixture was stirred at room temperature for another 6 hours. The mixture was concentrated under vacuum, and the residue was dissolved in water. The aqueous mixture was washed with diethyl ether, adjusted to pH 3 employing 1N hydrochloric acid, and then extracted with ethyl acetate. The combined extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The crude product (12.20 g) was dissolved in 120 mL of anhydrous dimethylsulfoxide. To this solution was added 10.50 g (76 mmol) of potassium carbonate and 4.70 mL (76 mmol) of iodomethane, and the resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined extracts were washed with water (2×) and brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. Column chromatography on silica gel (elution: 2-10% ethyl acetate/hexane) provided 8.54 g of N-tert-butoxycarbonyl-3-(4-pentenylthio)-L-valine, methyl ester as a colorless oil. NMR (300 MHz, CDCl3): δ 5.76 (d of d of t, 1H, J=17.2, 10.3, 6.6 Hz), 5.35 (br d, 1H, J=9.0 Hz), 5.05-4.94 (m, 2H), 4.27 (br d, 1H, J=9.0 Hz), 3.73 (s, 3H), 2.52 (m, 2H), 2.13 (quart., 2H, J=7.3 Hz), 1.61 (quint., 2H, J=7.3 Hz), 1.43 (s, 9H), 1.35 (s, 3H), 1.33 (s, 3H).

reactant | L-penicillamine | 48 mmol, 7.12 g, 1.0 eq | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | sodium hydroxide | 96 mmol, 10N, 9.60 mL, 2.0 eq | [OH-].[Na+]
reactant | 5-bromo-1-pentene | 101 mmol, 12.00 mL, 2.1 eq | BrCCCC=C | C5H9Br
reactant | di-tert-butyl dicarbonate | 57 mmol, 12.50 g, 1.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 76 mmol, 10.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 76 mmol, 4.70 mL | IC | CH3I
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | N-tert-butoxycarbonyl-3-(4-pentenylthio)-L-valine, methyl ester | 8.54 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)SCCCC=C)C(=O)OC | C16H29NO4S
